US05087743
4-Cyanobenzyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether
40.8 g (0.2 mol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl- 2-naphthol, 30.4 g (0.2 mol) of 4-cyanobenzyl chloride and 80 g (1.2 mol) of anhydrous potassium carbonate in 400 ml of butanone and 300 ml of dimethylformamide were refluxed for 9 h. The mixture was cooled and then poured into 1.5 l of water, and the solid was filtered off with suction and washed with water. Drying resulted in 63 g of the title compound of melting point 149°-150° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl- 2-naphthol | 0.2 mol, 40.8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | 4-cyanobenzyl chloride | 0.2 mol, 30.4 g | C(#N)C1=CC=C(CCl)C=C1 | C8H6ClN
reactant | potassium carbonate | 1.2 mol, 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 l | O | H2O
solvent | butanone | 400 ml | CC(CC)=O | C4H8O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 4-Cyanobenzyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 63 g | C(#N)C1=CC=C(CC2=C(C=CC=3C(CCC(C23)(C)C)(C)C)OC2=C(C=3C(CCC(C3C=C2)(C)C)(C)C)CC2=CC=C(C=C2)C#N)C=C1 | C44H48N2O
